US05026856
7-(5-methoxycarbonyl-2-isoindolinyl)-1-ethyl-6-fluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid
128 mg of 1-ethyl-6,7-difluoro-1,4-dihydro-4- oxoquinoline-3-carboxylic acid, 109 mg of 5-methoxycarbonylisoindoline hydrochloride, 228 mg of DBU, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 104 mg of the target compound.

reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4- oxoquinoline-3-carboxylic acid | 128 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
reactant | 5-methoxycarbonylisoindoline hydrochloride | 109 mg | Cl.COC(=O)C=1C=C2CNCC2=CC1
reactant | DBU | 228 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(5-methoxycarbonyl-2-isoindolinyl)-1-ethyl-6-fluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid | 104 mg | COC(=O)C=1C=C2CN(CC2=CC1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C22H19FN2O5
